US06838410B2
(a) Preparation of Indeno[2,1-b]indole 5
A mixture of 2-indanone (51.0 g, 0.39 mol) and p-tolylhydrazine hydrochloride (61.4 g, 0.39 mol) is dissolved in glacial acetic acid (525 mL) and is vigorously stirred and heated to reflux. The mixture turns red and is heated for 2 h. After cooling to room temperature, it is poured into ice water (1 L). The precipitate is filtered to afford a solid, which is washed with water (about 1 L). The solid is dissolved in ethyl acetate (1.4 L), activated charcoal is added, and the mixture is gently warmed. The mixture is then cooled and filtered over a pad of Celite. The filtrate is dried over Na2SO4 filtered, and is then concentrated to 450 mL and cooled to −30° C. for 3 days. The crystalline solid is filtered and washed with chilled (−78° C.) hexanes (2×500 mL). The beige solid is collected and dried under vacuum (47.1 g, 56%).

reactant | 2-indanone | 0.39 mol, 51.0 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | p-tolylhydrazine hydrochloride | 0.39 mol, 61.4 g | Cl.C1(=CC=C(C=C1)NN)C
solvent | acetic acid | 525 mL | C(C)(=O)O | C2H4O2
product | Indeno[2,1-b]indole | C1=C2C=3C(=NC2=CC=C1)C=C1C=CC=CC13 | C15H9N
